US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[N-methyl-N-(2-hydroxyethyl)carbamoyl]-1,3-thiazol-2-yl}azetidine (997.5 mg, 2.0 mmol) (obtained as described in Reference Example 58(1)) in tetrahydrofuran (50 ml) were added diphenylphosphoryl azide (0.65 ml, 3.02 mmol), triphenylphosphine (793 mg, 3.02 mmol), and a 40% solution of diethylazodicarboxylate in toluene (1.12 g, 3.04 mmol) in an ice bath under an atmosphere of nitrogen, and the mixture was stirred overnight under the same conditions. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column using toluene:ethyl acetate (1:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-{4-[N-(2-azidoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidine (1.05 g, yield 100%) as a colorless and transparent syrup.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[N-methyl-N-(2-hydroxyethyl)carbamoyl]-1,3-thiazol-2-yl}azetidine | 2.0 mmol, 997.5 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(CCO)C)=O | C26H33N3O3SSi
reactant | diphenylphosphoryl azide | 3.02 mmol, 0.65 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triphenylphosphine | 3.02 mmol, 793 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 3.04 mmol, 1.12 g | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-t-butyldiphenylsilyloxy-1-{4-[N-(2-azidoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidine | 1.05 g, yield 100% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(C)CCN=[N+]=[N-])=O | C26H32N6O2SSi
